US06479487B1
1-(4-Trifluoromethylbenzyl)-4-piperidone oxime is prepared from 1-(4-trifluoromethylbenzyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(4-trifluoromethylbenzyl)-4-piperidone | FC(C1=CC=C(CN2CCC(CC2)=O)C=C1)(F)F | C13H14F3NO
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(4-Trifluoromethylbenzyl)-4-piperidone oxime | FC(C1=CC=C(CN2CCC(CC2)=NO)C=C1)(F)F | C13H15F3N2O
